US07667041B2
Synthesis of 5-morpholin-4-yl-indan-1-on-oxime
An ethanol (5.0 mL) solution of 5-morpholin-4-yl-indan-1-one(2.20 g), hydroxyl ammonium chloride (1.05 g) and the triethylamine (4.22 mL) was refluxed for 3 hours. Water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The obtained organic layer was washed with a saturated sodium chloride solution, and 2.28 g of the title compound was obtained by condensing under reduce pressure after drying over anhydrous magnesium sulfate. The physical properties of the compound are as follows.

reactant | ethanol | 5.0 mL | C(C)O | C2H6O
reactant | 5-morpholin-4-yl-indan-1-one | 2.20 g | N1(CCOCC1)C=1C=C2CCC(C2=CC1)=O | C13H15NO2
reactant | hydroxyl ammonium chloride | 1.05 g | [Cl-].O[NH3+]
reactant | triethylamine | 4.22 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 5-morpholin-4-yl-indan-1-on-oxime | 2.28 g | N1(CCOCC1)C=1C=C2CCC(C2=CC1)=NO | C13H16N2O2
